US08877782B2
2-Methyl-6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinic acid ethyl ester
As described for example 4, (5-methyl-3-phenyl-isoxazol-4-yl)-methanol (313 mg, 1.66 mmol) was converted using 6-hydroxy-2-methyl-nicotinic acid ethyl ester instead of 2-hydroxy-5-trifluoromethylpyridine to the title compound (SiO2, heptane:ethyl acetate=60:40 to 10:90, 322 mg, 55%) which was obtained as a colourless oil. MS: m/e=353.2 [M+H]+.

reactant | (5-methyl-3-phenyl-isoxazol-4-yl)-methanol | 1.66 mmol, 313 mg | CC1=C(C(=NO1)C1=CC=CC=C1)CO | C11H11NO2
reactant | 6-hydroxy-2-methyl-nicotinic acid ethyl ester | C(C)OC(C1=C(N=C(C=C1)O)C)=O | C9H11NO3
product | 2-Methyl-6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinic acid ethyl ester | 322 mg, 55% | C(C)OC(C1=C(N=C(C=C1)OCC=1C(=NOC1C)C1=CC=CC=C1)C)=O | C20H20N2O4
